US06515003B1
To a solution of 3-bromo-4-trifluoromethoxybenzaldehyde (10.0 g, 37.2 mmol), (3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)boronic acid (11 g, 44.68 mmol, 1.2 eq) in a mixture of toluene (100 mL), ethanol (20 mL) and water (15 mL) was added potassium carbonate (10.28 g, 74.4 mmol, 2 eq). The solution was degassed with argon for 40 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.86 g, 0.74 mmol, 0.02 eq) was added and the mixture heated at reflux under argon for 22 hours. The solution was cooled to room temperature, diluted with ethyl acetate and washed successively with water and brine, dried over MgSO4, filtered and evaporated. The residue was chromatographed on silica gel (silica: 70-230 mesh, 60A, 400 g, eluant: ethyl acetate/hexane, 5:95) to give 4-trifluoromethoxy-3-(3,5,5,8,7-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)benzaldehyde (11.1 g, 76%). 1H NMR (300 MHz; CDCl3) 1.25 (s, 6H); 1.32 (s, 6H); 1.70 (s, 4H); 2.08 (s, 3H); 7.06 (s, 1H); 7.18 (s, 1H), 7.48 (dd, J1=8.4 Hz, J2=1.5 Hz, 1H); 7.84 (d, J=2.0 Hz, 1H); 7.88 (dd, J1=2.0 Hz), J2=8.5 Hz 1H), 9.91 (s, 1H).

reactant | 3-bromo-4-trifluoromethoxybenzaldehyde | 37.2 mmol, 10.0 g | BrC=1C=C(C=O)C=CC1OC(F)(F)F | C8H4BrF3O2
reactant | (3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)boronic acid | 44.68 mmol, 11 g, 1.2 eq | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C15H23BO2
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | potassium carbonate | 74.4 mmol, 10.28 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.74 mmol, 0.86 g, 0.02 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 15 mL | O | H2O
product | 4-trifluoromethoxy-3-(3,5,5,8,7-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)benzaldehyde | 11.1 g, 76% | FC(OC1=C(C=C(C=O)C=C1)C1=CC=2C(C(CC(C2C=C1C)(C)C)C)C)(F)F | C23H25F3O2
